US04916145
A solution of 379 mg of 3',4'-dimethoxy-2-(2-propenyl)[1,1'-biphenyl]-4-carboxylic acid in 8 mL of dimethylformamide was cooled in an ice bath and 0.19 mL of triethylamine and 0.30 mL of diphenylphosphorylazide were added. After 1 hour. 0.223 g of (R)-alpha-methyl-3-pyridinebutanamine was added and the reaction mixture was allowed to warm to room temperature over 48 hours. The mixture was diluted with ethyl acetate and washed with water and saturated potassium carbonate, dried. and concentrated. The residue was chromatographed over 50 g of silica gel, eluting with ethyl acetate to afford 527 mg of (R)-3',4'-dimethoxy-2-(2-propenyl)-N-[1-methyl-4-(3-pyridinyl)butyl][1,1'-biphenyl]-4-carboxamide as a water white oil.

reactant | 3',4'-dimethoxy-2-(2-propenyl)[1,1'-biphenyl]-4-carboxylic acid | 379 mg | COC=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)O)CC=C | C18H18O4
reactant | triethylamine | 0.19 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 0.30 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | (R)-alpha-methyl-3-pyridinebutanamine | 0.223 g | C[C@H](CCCC=1C=NC=CC1)N | C10H16N2
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-3',4'-dimethoxy-2-(2-propenyl)-N-[1-methyl-4-(3-pyridinyl)butyl][1,1'-biphenyl]-4-carboxamide | 527 mg | COC=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)N[C@@H](CCCC=1C=NC=CC1)C)CC=C | C28H32N2O3
